US04659862
Methyl α,α-Dimethyl-9-nitro-9,10-dihydroanthracene-10-acetate
A solution of 1.115 g (5 mmol) of 9-nitroanthracene and 1.01 mL (5 mmol) of MMTS in 20 mL of anhydrous THF was treated with 1.375 g (5 mmol) of TASF dissolved in 3 mL of acetonitrile at -78° C. After addition of TASF had been completed, the reaction mixture was brought to -10° C. and stirred for 1 hr. Ten mL of water was then added, the mixture was warmed to room temperature, and the product was extracted into ether. The organic layer was washed with saturated sodium chloride solution, dried and concentrated. The melting point was 159° to 163° C. (dec). The product material was analyzed by ultraviolet absorption, infrared spectroscopy, nuclear magnetic resonance spectroscopy, and mass spectrometry.

reactant | 9-nitroanthracene | 5 mmol, 1.115 g | [N+](=O)([O-])C=1C2=CC=CC=C2C=C2C=CC=CC12 | C14H9NO2
reactant | MMTS | 5 mmol, 1.01 mL | CSS(=O)(=O)C | C2H6O2S2
reactant | TASF | 5 mmol, 1.375 g | CN(C)[S+](N(C)C)N(C)C.C[Si-](C)(C)(F)F
reactant | water | Ten mL | O | H2O
reactant | THF | 20 mL | C1CCOC1 | C4H8O
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | Methyl α,α-Dimethyl-9-nitro-9,10-dihydroanthracene-10-acetate | CC(C(=O)OC)(C1C=2C=CC=CC2C(C2=CC=CC=C12)[N+](=O)[O-])C | C19H19NO4
